data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2813,"C[OH+:1][CH2:2][O:3]C.NC(CC1=CC=C(O)C=C1)C(=O)O.NCCC1=CC=CC=C1.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8944,"O=S(=O)(O)[O:1][H:2].OC1([OH:3])CCCO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6934,"CC(C)=O.CC(C)CC1CCC2C3CC=C4CC([O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C)CCC4(C)C3CCC12C.CC(C)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,5115,"CC(O)[N:1](C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7889,"C[CH+:1]C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6321,"CCCCC1=C[CH:1]=[CH:2]S1.C[C+:3](C)C1=CC=CC=C1.F[P-](F)(F)(F)(F)F|((1, 2), 3)"
train,pmechdb_split_0,0,6855,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CS(=O)(=O)C1=CC=C(C2=C[CH:1]([H:2])[C:3](C)=[N+:4]2C2=CC=C(F)C=C2)C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9376,"N=C(NC=C[C:1]#[NH+:2])[NH2:3].O.[C-]#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1478,"CC[O-:1].[CH3][Sn]([CH3])([CH3])[CH2]C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10065,"CCC[CH2][Sn-:1]([F])([CH2]CCC)([CH2]CCC)[O+:2](CC)CC|((1, 2), 2)"
train,pmechdb_split_0,0,2003,"CCCCC12CCC([O-:1])C(OC)(CCC3C1CC3(C)C)C2.CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,7035,"C1CCOC1.CC(=O)[O:1][H:2].CCOC(=O)C1=C(C2=C([N+](=O)[O-])C(N3CCCCC3)=CC=C2)CC(C(=O)OCC)([OH:3])O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7800,"COC1=C2OC3C45CCNC(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7635,"Cl[P+:1](Cl)(Cl)[Mg][Br].[Br][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,4178,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=[C:1]([C:2](C3=CC=C(F)C=C3)(C(CC(=O)C3=CC=CC=C3)C3=CC=CS3)[O-:3])SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7185,"CC[C:1](=[CH2:2])[OH:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6524,"C[S+:1](C)[O:2][H:3].[OH-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7957,"C=C(CCC1(C2=CC(OC)=C(OC)C=C2)CC(=O)N(C)C1[O+:1](S(C)(=O)=O)[H:2])C[Si](C)(C)C.CC[N:3](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6762,"COC1=CC(I)=C(CC[N:1](C)[CH:2]([O][AlH2])[O:3]C(C)(C)C)C=C1OC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2259,"CC(C)(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])C(=O)C1CCCC2=C(C=CC=C2)C1=O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5555,"O=C1OI(O)(=[O:1])C2=C1C=CC=C2.O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7251,"CC(=O)[O:1][H:2].O=CCC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,819,"CC[O+:1](C(CC1=CC=CC=C1)OC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1673,"C1CCC2=[N:1]CCCN2CC1.CC(C)C1CCC2=C[C:2](=[O:3])[C:4](C[N+](C)(C)C)([H:5])CCC21C.[I-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,1317,"CCCC[NH+:1](C([O-])(CC)OCC)[H:2].CCCC[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9932,"BrC[C:1]1=[CH:2]C=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9944,"O=S(=O)(O)C1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,6862,"CC(=O)[O-:1].CC1=CCC(O)(C2=CC=CC=C2)[N+:2]1(C1CCCCC1N)[H:3].CO.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5184,"CC(C(=O)OCC1=CC=CC=C1)[NH+:1](CC1=CC=CC=C1)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8106,"CC[NH+:1]=[CH:2]C.C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5614,"O=N[NH+:1](C1=CC=CC=C1)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5656,"C(CC1=CC=CC=C1)#[C-:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8265,"CC(C(O)C1=CC=CC=C1)[C:1](OO)([N:2]1C(=O)OCC1CC1=CC=CC=C1)[O-:3].O.[Li+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2316,"COC1=CC=C([P:1](C2=CC=C(OC)C=C2)C2=CC=C(OC)C=C2)C=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3569,"CCNC[CH:1]=[C:2](N)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2581,"CNC(=O)CC1(C2=CC(OC)=C(OC)C=C2)CC[C:1]([O-:2])=[CH:3][CH:4]1[OH:5].C[NH3+]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4078,"C[CH+:1]C.N#CC1=C[CH:2]=[CH:3]O1|((3, 2), 1)"
train,pmechdb_split_0,0,8619,"C1=NC([S:1][H:2])=NN1.CCO.CC[N:3](CC)CC.N#CC1=CC=CC(OCCCCl)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1998,"Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1C2=CC=CC3=CC=CC(=C32)C(=O)N1CCC[O-:2].O=C1CCC(=O)N1|(2, 1)"
train,pmechdb_split_0,0,2189,"CO[C:1](O)=[N+:2](C)CCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,582,"CC(C)[C:1](C1CCCCC1)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3424,"CO.COC1=C(O)C2=C(C=C1)CC1C3C[CH+:1][C:2](O)=[CH:3]C23CCN1CC1CCC1.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,9498,"CC(C)(C)CO[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)N[N-:1]C(=O)OCC.O=C1CCC(C(=O)[O:2][H:3])CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2558,"CC(C(C)CC(C)CN=[N+]=[N-])=[O:1].CC(C)[N](C(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,10305,"CN(C)[S:1](C)=[O:2]|((1, 2), 2)"
